US08278316B2
C. 4-((4-Chlorophenoxy)methyl)pyrimidin-2(1H)-one
4-((4-Chlorophenoxy)methyl)-2-(methylsulfonyl)pyrimidine Part B (0.8 g, 2.68 mmol) was stirred in 1N NaOH (5 mL, 5.36 mmol) and THF (13 mL) at 80° C. for 30 min. The solution was cooled to RT, acidified to pH 3 using 10% aqueous HCl. The precipitated product after isolation by filtration, was washed with CH2Cl2 to afford the desired product 4-((4-chlorophenoxy)methyl)pyrimidin-2(1H)-one 6C (0.344 g, 1.45 mmol, 54% yield) as a light brown solid. 1H NMR (400 MHz, DMSO-d6) δ 7.93 (1H, d, J=5.27 Hz), 7.28-7.36 (2H, m), 6.94-7.02 (2H, m), 6.10 (1H, d, J=5.27 Hz), 4.78 (2H, s).

reactant | 4-((4-Chlorophenoxy)methyl)-2-(methylsulfonyl)pyrimidine | ClC1=CC=C(OCC2=NC(=NC=C2)S(=O)(=O)C)C=C1 | C12H11ClN2O3S
reactant | NaOH | 5.36 mmol, 1N, 5 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 13 mL | C1CCOC1 | C4H8O
product | 4-((4-chlorophenoxy)methyl)pyrimidin-2(1H)-one | 1.45 mmol, 0.344 g, 54% yield | ClC1=CC=C(OCC2=NC(NC=C2)=O)C=C1 | C11H9ClN2O2
